US04394327
66 g of resorcinol are added to 220 ml of dimethyl sulphoxide. With stirring, 37.4 g of potassium hydroxide (powder) are added, whereupon the temperature rises to 55° C. The mixture is kept for 30 minutes at 60° C. and the 51.6 g of 2,5-dichlorobenzonitrile are added in portions. The reaction mixture is then stirred for 7 hours at 90° C. and, after cooling, poured into ice-water. The pH is adjusted to 6 with conc. hydrochloric acid and initially a brown oil precipitates, which soon becomes crystalline. Crystallisation from ethanol/-water yields 49.6 g of 3-(2'-cyano-4'-chlorophenoxy)-phenol with a melting point of 118°-120° C.

reactant | resorcinol | 66 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | potassium hydroxide | 37.4 g | [OH-].[K+]
reactant | 2,5-dichlorobenzonitrile | 51.6 g | ClC1=C(C#N)C=C(C=C1)Cl | C7H3Cl2N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 220 ml | CS(=O)C | C2H6OS
product | 3-(2'-cyano-4'-chlorophenoxy)-phenol | 49.6 g | C(#N)C1=C(OC=2C=C(C=CC2)O)C=CC(=C1)Cl | C13H8ClNO2
